US06747023B1
1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine
To a methylene chloride solution (30 ml) of 2-(2-methylpropyl)piperazine hydrochloride (353 mg) were added 6-chlorobenzo[b]thiophene-2-sulfonyl chloride (438 mg) and triethylamine (498 mg). The resulting mixture was stirred at room temperature for 3 hours. Distilled water and methylene chloride were added. The water layer thus obtained was extracted three times with methylene chloride. The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was subjected to chromatography on a silica gel column (methanol methylene chloride=1:100), whereby the title compound (363 mg) was obtained as a pale yellow oil.

reactant | 2-(2-methylpropyl)piperazine hydrochloride | 353 mg | Cl.CC(CC1NCCNC1)C
reactant | 6-chlorobenzo[b]thiophene-2-sulfonyl chloride | 438 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)Cl)C1 | C8H4Cl2O2S2
reactant | triethylamine | 498 mg | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[(6-Chlorobenzo[b]thien-2-yl)sulfonyl]-3-(2-methylpropyl)piperazine | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(NCC2)CC(C)C)C1 | C16H21ClN2O2S2
